US07612067B2
Preparation of 8-(1-ethyl-propyl)-3-[5-(4-fluoro-phenyl)-3-methyl-thiophen-2-yl]-2,6-dimethyl-imidazo[1,2-b]pyridazine
A slurry of 0.05 g/mL of Reike® Zn in THF (0.26 g, 4.01 mmol) and 1-bromo-4-fluoro-benzene (0.29 mL, 2.68 mmol) is heated at a reflux overnight. The solution is filtered under nitrogen. 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.35 g, 0.89 mmol) and PdCl2(dppf) (0.033 g, 0.045 mmol) are added, and the solution is heated at a reflux overnight diluted with EtOAc (30 mL), washed with 10% citric acid (20 mL), water (20 mL), brine (20 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO column chromatography (10%-15% EtOAc/hexane gradient) furnish the title compound (0.091 g, 0.22 mmol, 25%). 1H NMR (CDCl3), δ 0.88 (t, J=7.5 Hz, 6H), 1.74-1.92 (m, 4H), 2.15 (s, 3H), 2.50 (s, 3H), 2.52 (s, 3H), 3.30-3.38 (m, 1H), 6.68 (s, 1H), 7.08 (d, J=8.8 Hz, 2H), 7.18 (s, 1H), 7.59 (dd, J=8.5, 5.3 Hz, 2H). LC/MS (m/z): calcd. for C24H26FN3S (M+H)+: 408.7; found: 408.3.

reactant | THF | 4.01 mmol, 0.26 g | C1CCOC1 | C4H8O
reactant | 1-bromo-4-fluoro-benzene | 2.68 mmol, 0.29 mL | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.89 mmol, 0.35 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Zn | [Zn] | Zn
catalyst | PdCl2(dppf) | 0.045 mmol, 0.033 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-(1-ethyl-propyl)-3-[5-(4-fluoro-phenyl)-3-methyl-thiophen-2-yl]-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.22 mmol, 0.091 g, 25% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC(=CC2C)C2=CC=C(C=C2)F | C24H26FN3S
